US07119214B2
Compound Ic: 2-(7-chlorodibenzofuran-1-ylmethylsulfanyl)acetamide
A suspension of 2-(7-chlorodibenzofuran-1-ylmethylsulfanyl)acetic acid ethyl ester (Compound Ic; 3.77 g, 11.8 mmole) in 50 ml 7N methanol/ammonia was stirred at 45° C. for one hour, and then at RT for 2 days. The suspension was filtered, washed by methanol, dried in vacuum to give 2.56 g of white solid.

reactant | 2-(7-chlorodibenzofuran-1-ylmethylsulfanyl)acetic acid ethyl ester | 11.8 mmole, 3.77 g | C(C)OC(CSCC1=CC=CC=2OC3=C(C21)C=CC(=C3)Cl)=O | C17H15ClO3S
reactant | methanol ammonia | 7N, 50 ml | CO.N
product | 2-(7-chlorodibenzofuran-1-ylmethylsulfanyl)acetamide | 2.56 g | ClC1=CC2=C(C3=C(O2)C=CC=C3CSCC(=O)N)C=C1 | C15H12ClNO2S
